US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-6-cyclopropyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from methyl cyclopropanecarboxylate, 2,1,3-benzoxadiazole-4-aldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | methyl cyclopropanecarboxylate | C1(CC1)C(=O)OC | C5H8O2
reactant | 2,1,3-benzoxadiazole-4-aldehyde | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-6-cyclopropyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CC2)=NNC1 | C16H12N6O
